Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS, pneumonia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ w/ hx Alzheimer's disease, dementia, DM2, anemia, 
depression, osteoarthritis transfer from OSH w/ AMS and 
pneumonia. Patient noted to be more confused than usual and 
complaining of general malaise today at her ___ facility prior 
to being taken to ___ for evaluation. She was found there to 
have b/l pneumonia, hyperglycemia and hypernatremia. She was 
given zosyn prior to transfer to ___. Transfer to ___ d/t no 
ICU bed at ___. Patient was receiving zosyn but had not been 
given vancomycin on arrival. 

At the OSH, initial vitals were: ___ 99.1 90% on RA 20sk. 
 Initial labs were significnat for WBC 2.6, k+ 3.0, Na 162 
glucose 489.  She was give 1 liter of normal saline.  She was 
diagnosed with hypokalemia and a pneumonia and transferred to 
___ as there were no open ICU beds. She was given IV Zosyn 
3.375 grams, was ordered for 1 gm vancomycn, and given 12 units 
regular insulin and 1 L normal saline. 

In the ED, initial VS were: 99.2 130 ___ 94% 15L. She was 
given 1g Vanc, tylenol, and 1L NS for hypovolemia hypernatermia.
 
On arrival to the MICU,  VS T 98.1 HR 107 BP 148/120 RR 27 96% 
on face mask. Pt is responding to commands and speaking 
intermittently but unable to provide any history.
 
Past Medical History:
Alzheimer's 
Dementia w/ behavioral disturbances
Delusional Disorder
Hemiplegia ___ CVA
Peripheral vascular disease
Hypertension
Coronary Artery Disease
NIDDM
Anemia
Major Depression w/o psychosis
Osteoarthritis
Urinary Incontinence
Pernicious Anemia
Dysphagia

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: T: 98.1 BP: 148/120 P: 107 R: 27 O2: 96% on facemask  
General: Awake, intermittently following commands, no acute 
distress, mumbling not always intelligible  
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, rare rhonchi on left 
anteriorly, no wheezes, rales  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: foley with translucent urine and possibly sediment   
Ext: cool 1+ pulses lower ext, upper extremities 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: Left sided weakness in upper arm, right arm able to 
squeeze arm. 

 
Pertinent Results:
ADMISSION LABS
___ 10:10PM BLOOD WBC-20.4* RBC-4.15* Hgb-11.6* Hct-37.1 
MCV-89 MCH-27.9 MCHC-31.2 RDW-14.9 Plt ___
___ 10:10PM BLOOD Neuts-91.4* Lymphs-5.9* Monos-2.4 Eos-0.1 
Baso-0.2
___ 10:10PM BLOOD Plt ___
___ 02:21AM BLOOD ___ PTT-21.1* ___
___ 10:10PM BLOOD Glucose-352* UreaN-33* Creat-0.7 Na-164* 
K-4.6 Cl-132* HCO3-19* AnGap-18
___ 02:21AM BLOOD ALT-24 AST-19 AlkPhos-103 TotBili-0.2
___ 02:21AM BLOOD Lipase-28
___ 02:21AM BLOOD Calcium-9.4 Phos-1.6* Mg-2.2
___ 12:39PM BLOOD Type-ART pO2-84* pCO2-32* pH-7.46* 
calTCO2-23 Base XS-0
___ 10:40PM BLOOD Glucose-340* Lactate-2.9* Na-166* K-3.2*
___ 10:50PM URINE  BLOOD-MOD NITRITE-POS PROTEIN-30 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 10:50PM URINE  RBC-71* WBC-19* BACTERIA-FEW YEAST-MANY 
EPI-4
___ 06:18AM   LACTATE-3.1*
___ 09:18AM   SODIUM-121* POTASSIUM-2.7* CHLORIDE-95* TOTAL 
CO2-15* ANION GAP-14

ECG ___: Baseline artifact. Sinus rhythm at upper limits of 
normal rate. Left axis deviation. Early R wave progression. Low 
precordial lead voltage. ST-T wave abnormalities. No previous 
tracing available for comparison. Clinical correlation is 
suggested.

CXR ___: 1. New right PICC terminates within the right 
brachiocephalic vein.  2. Progressed bibasilar pneumonia with 
small bilateral pleural effusions.

LABS on discharge: 
___ 07:05AM BLOOD WBC-8.6 RBC-2.99* Hgb-8.2* Hct-25.3* 
MCV-85 MCH-27.4 MCHC-32.4 RDW-16.1* Plt ___
___ 05:02AM BLOOD Glucose-143* UreaN-4* Creat-0.4 Na-140 
K-3.3 Cl-108 HCO3-25 AnGap-10
___ 05:02AM BLOOD WBC-9.9 RBC-2.96* Hgb-8.2* Hct-25.3* 
MCV-86 MCH-27.5 MCHC-32.2 RDW-15.9* Plt ___
___ 07:05AM BLOOD Glucose-112* UreaN-4* Creat-0.5 Na-139 
K-3.3 Cl-107 HCO3-26 AnGap-___ with PMH Alzheimer's dementia, diabetes, coming from OSH for 
altered mental status, leukocytosis, hypernatermia and 
hyperglycemia likely due to pneumonia.  She was initially 
admitted to the ICU and then transferred to the floor.

#####   Hypernatremia: She appeared to have hypovolemic hypernatremia 
based on clinical exam findings of dry mucous membranes, 
significant respiratory variation in IVC diameter, and IJ 
collapse with respiratory variation.  This is likely 
multifactorial in the setting of worsening mental status related 
to infection in combination with dementia. Pt was calculated to 
have a free water deficit of ~5L. Her hypernatremia was 
gradually corrected over the course of 2.5 days with ___ NS 
after volume resuscitation with LR.  Her sodium was monitored 
daily and remained within the normal range. Would continue to 
monitor weekly while at rehab and encourage liquid intake.

#####   HCAP: On presentation, pt had worsening mental status, 
leukocytosis, and CXR c/w possible left lower lobe PNA.  She had 
a new O2 requirement as well.  She was started on vanc, zosyn, 
and azythromycin. She completed an 8 day course on ___.  
PICC was removed prior to discharge.  Over the course of her 
stay in the ICU, her O2 requirement resolved. At discharge she 
was afebrile, oxygen saturation in high ___ on room air 
breathing comfortably, some improving rhonchi at bases. 

#####   Nutrition/Goals of Care: It was suspected that her subacute 
weight loss is due to her dementia. She was seen by speach and 
swallow who provided diet recommendations. Also recent 
malnutrition due to acute illess. The issue of inadequate 
nutrition in patients with progressive dementia was discussed 
with her son ___. We dicussed adding high calorie supplements 
to her diet and asssitance with feeding. He will consider using 
an appetite stimulant with her outpatient providers. We 
discussed that there is no evidence that tube feeding will 
improve quality or longevity of life, which he recognized saying 
that he had dealt with similar issues with his father's chronic 
progressive illness and ultimately passing. 
DIET: 
Regular; Diabetic/Consistent Carbohydrate Consistency: Pureed 
(dysphagia); Nectar prethickened liquids Supplement: Glucerna 
shake breakfast, lunch, dinner pills crushed in puree. 
Aspiration precautions, please provide assistance with feeding. 

#####   HTN: Pt was mildly hypotensive on arrival and required volume 
resuscitation; metoprolol was therefore held. These were later 
restarted.

#####   Depression: she was continued on her home dose of 20mg 
citalopram.

#####   H/o CVA: She was continued on her home simva 20 and ASA 81.

#####  Anemia: Patient hematocrit trended down during hospitalization 
to 25. Labs were consistent with anemia of chronic inflammation. 
Hematocrit remained stable at 25. 

Code status: Full code, although son ___ is HCP and 
reconsidering and would continue to address goals of care

TRANSITIONAL: 
-monitor electrolytes (potassium, sodium)
-monitor CBC for recovery of RBC count
-add high calorie supplements to meals, assistance with feedings
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DuoNeb *NF* (ipratropium-albuterol) 0.5 mg-3 mg(2.5 mg 
base)/3 mL Inhalation q6hrs cough 
2. Metoprolol Tartrate 12.5 mg PO BID 
3. Guaifenesin ER 600 mg PO BID:PRN cough 
4. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
5. Simvastatin 20 mg PO DAILY 
6. Levofloxacin 500 mg PO Q24H 
end date ___. Citalopram 20 mg PO DAILY 
8. Glargine 14 Units Bedtime
9. Bisacodyl ___AILY:PRN constipation 
10. Docusate Sodium 100 mg PO BID 
11. Dulcolax ___X/WEEK (MO,TH) 
___ and ___
 
12. Fleet Enema ___AILY:PRN constipation 
13. Senna 2 TAB PO HS 
14. Acetaminophen 650 mg PO Q4H:PRN pain 
15. Norco *NF* (HYDROcodone-acetaminophen) ___ mg Oral qHS 
16. Norco *NF* (HYDROcodone-acetaminophen) ___ mg Oral TID:PRN 
pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Bisacodyl ___AILY:PRN constipation 
3. Citalopram 20 mg PO DAILY 
4. Senna 2 TAB PO HS 
5. Simvastatin 20 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Dulcolax ___X/WEEK (MO,TH) 
___ and ___
 
8. DuoNeb *NF* (ipratropium-albuterol) 0.5 mg-3 mg(2.5 mg 
base)/3 mL Inhalation q6hrs cough 
9. Fleet Enema ___AILY:PRN constipation 
10. Guaifenesin ER 600 mg PO BID:PRN cough 
11. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
12. Metoprolol Tartrate 12.5 mg PO BID 
13. Norco *NF* (HYDROcodone-acetaminophen) ___ mg Oral TID:PRN 
pain 
14. Aspirin 81 mg PO DAILY 
15. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob/cough 
16. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN cough/sob 
17. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
Healthcare associated pneumonia 
Hypernatremia 
Acute metabolic encephalopathy 
 
Secondary Diagnosis: 
Alzheimer's dementia 
Hypertension 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital with pneumonia, hypernatremia 
(high sodium level in your blood) and altered mental status.  
You were treated with antibiotics and your pneumonia improved.  
You were also given IV fluids and your sodium level returned to 
normal.  Your mental status also returned to normal.
 
Followup Instructions:
___